US09169246B2
Step 5.8. 5-(propan-2-yl)-7-(pyrid-4-yl)-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one
To a solution of 7-bromo-5-(propan-2-yl)-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one (0.25 g, 0.82 mmol) in 8 mL of DMF placed in a microwave reactor are added caesium carbonate (0.8 g 2.5 mmol), 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine (0.25 g 1.22 mmol) and the catalyst PdCl2(dppf) (60 mg, 0.08 mmol). The reactor is sealed and the mixture is stirred for 20 minutes at 150° C. under microwave irradiation. The reaction medium is diluted with an EtOAc/THF mixture (50/50) and washed with water and then with saturated aqueous NaCl solution. The organic phase is dried over Na2SO4 and concentrated to dryness. After purification by flash chromatography (DCM/MeOH: 100/0 to 90/10), 45 mg of a white solid are obtained (yield: 19%).

reactant | 7-bromo-5-(propan-2-yl)-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one | 0.82 mmol, 0.25 g | BrC=1C=CC=2C3=C(C(N(C2C1)C(C)C)=O)C=NN3 | C13H12BrN3O
reactant | caesium carbonate | 2.5 mmol, 0.8 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 1.22 mmol, 0.25 g | CC1(OB(OC1(C)C)C1=CC=NC=C1)C | C11H16BNO2
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | EtOAc THF | CCOC(=O)C.C1CCOC1
catalyst | PdCl2(dppf) | 0.08 mmol, 60 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-(propan-2-yl)-7-(pyrid-4-yl)-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one | yield: 19% | CC(C)N1C(C2=C(C=3C=CC(=CC13)C1=CC=NC=C1)NN=C2)=O | C18H16N4O
